US05216167
[2-Ethoxy-4-[N-(1-(2-piperidino-phenyl)-3-methyl-1-butyl)-aminocarbonylmethyl]-phenyl]-acetonitrile
Prepared analogously to Example 29 from 2-ethoxy-4-[N-(1-(2-piperidino-phenyl)-3-methyl-1-butyl)-aminocarbonylmethyl]benzyl chloride with sodium cyanide.

reactant | 2-ethoxy-4-[N-(1-(2-piperidino-phenyl)-3-methyl-1-butyl)-aminocarbonylmethyl]benzyl chloride | C(C)OC1=C(CCl)C=CC(=C1)CC(=O)NC(CC(C)C)C1=C(C=CC=C1)N1CCCCC1 | C27H37ClN2O2
reactant | sodium cyanide | [C-]#N.[Na+]
product | [2-Ethoxy-4-[N-(1-(2-piperidino-phenyl)-3-methyl-1-butyl)-aminocarbonylmethyl]-phenyl]-acetonitrile | C(C)OC1=C(C=CC(=C1)CC(=O)NC(CC(C)C)C1=C(C=CC=C1)N1CCCCC1)CC#N | C28H37N3O2
